US08686024B2
Synthesis of 1-benzylindolin-5-yl 4-dimethylaminophenylcarbamate
The title compound was synthesized from 1-benzylindolin-5-ol (45.0 mg, 0.200 mmol) using the same procedure employed for Example 2 (2), but with 4-dimethylaminophenylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a slightly brown solid (34.8 mg, 45%) having the following characteristics.

reactant | 1-benzylindolin-5-ol | 0.200 mmol, 45.0 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | 4-dimethylaminophenylisocyanate | CN(C1=CC=C(C=C1)N=C=O)C | C9H10N2O
product | 1-benzylindolin-5-yl 4-dimethylaminophenylcarbamate | CN(C1=CC=C(C=C1)NC(OC=1C=C2CCN(C2=CC1)CC1=CC=CC=C1)=O)C | C24H25N3O2
